US07868008B2
5-Bromo-7-chloro-2-[(4,4-difluorocyclohexyl)methyl]isoindolin-1-one
4-Bromo-2-bromomethyl-6-chlorobenzoic acid methyl ester (3.5 g, 9.35 mmol), (4,4-difluorocyclohexyl)methylamine (1.7 g, 11.39 mmol) and K2CO3 (3.15 g, 22.78 mmol) were stirred in toluene (10 mL) at 95° C. for 12 hours. The reaction was partitioned between ethyl acetate and water and the organic layer was washed with brine and dried over anhydrous Na2—SO4. The solvent was removed under reduced pressure and the product was purified by column chromatography (10-25% EtOAc/Hexanes) to afford the title compound as a yellow foam (2.2 g, 45%), 1H NMR (300 MHz, CDCl3): 7.58 (s, 1H), 7.50 (s, 1H), 4.36 (s, 2H), 3.48 (d, 2H), 2.10-2.14 (m, 2H), 1.64-1.82 (m, 5H), 1.35-1.447 (m, 2H)

reactant | 4-Bromo-2-bromomethyl-6-chlorobenzoic acid methyl ester | 9.35 mmol, 3.5 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | (4,4-difluorocyclohexyl)methylamine | 11.39 mmol, 1.7 g | FC1(CCC(CC1)CN)F | C7H13F2N
reactant | K2CO3 | 22.78 mmol, 3.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-7-chloro-2-[(4,4-difluorocyclohexyl)methyl]isoindolin-1-one | 2.2 g, 45% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1CCC(CC1)(F)F | C15H15BrClF2NO
